US07612075B2
1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-2-propyl]-3-(S)-ethyl-piperazin-2-one
The title compound is prepared as described in EXAMPLE 278 using 1-(4-aminoquinazoline-7-ylmethyl)-3-ethyl-piperazine-2-one, EXAMPLE 77 and 3-(5-chloro-thiophen-2-yl)-propionaldehyde, EXAMPLE 28. 1H NMR (d6-DMSO+1 drop TFA, 300 MHz) δ9.80 (bs, 2H), 8.79 (s, 1H), 8.32 (d, 1H), 7.58 (m, 2H), 6.88 (d, 1H), 6.70 (d, 1H), 4.72 (AB, 2H), 4.00 (m, 1H), 3.72 (m, 1H), 3.48 (m, 2H), 3.23 (m, 3H), 2.72 (m, 2H), 1.96 (m, 4H), 0.98 (m, 3H). MS (ion spray), m/z, (M+H)=444, 446 (Cl pattern).

reactant | 1-(4-aminoquinazoline-7-ylmethyl)-3-ethyl-piperazine-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C(C(NCC1)CC)=O | C15H19N5O
reactant | 3-(5-chloro-thiophen-2-yl)-propionaldehyde | ClC1=CC=C(S1)CCC=O | C7H7ClOS
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-2-propyl]-3-(S)-ethyl-piperazin-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)C(C)CC=1SC(=CC1)Cl)CC)=O | C22H26ClN5OS
